US05935982
Preparation of 2,5-Diformylbenzo[b]furan
Diisobutylaluminum halide (4.26 g, 0.03 mole; 30 mL of a 1M solution in cyclohexane) is added dropwise to a solution of 2,5-dicyanobenzo[b]furan (1.68g, 0.01 mole) in 150 mL dry methylenechloride at 15° C., under nitrogen. The mixture is stirred for 15 minutes and then allowed to reflux for 40 minutes. The reaction mixture is cooled and 100 mL 1M sulfuric acid is added slowly while keeping the temperature below 25° C. After addition of the sulfuric acid is complete the mixture is stirred for 1 hour and the dichloromethane layer is separated. The aquesous layer is extracted with 100 mL of dichloromethane and the two organic phases are combined and washed with 20% NaHCO3 (aqueous), dried over anhydrous sodium sulfate and the solvent is distilled to yield a residue. The residue is tritrated with 1:1 ether:hexane and an off-white solid forms which is filtered, dried in vacuum at 60° C. for 4 hours. The reaction yields 1.2 g of product (69% yield) having a meting point of 141-142° C. 1H NMR (DMSO-d6 /50° C.) 10.1 (s, 1H), 9.92 (s, 1H), 8.48 (d, 1H, J=0.8), 8.10 (s, 1H), 8.08 (dd, 1H, J=8, J=8.8), 7.90 (d, 1H, J=8.8). 13C NMR (DMSO-d6 /50° C.) 191.8, 180.6, 158.1, 153.6, 132.9, 128.9, 127.5, 126.9, 118.8, 113.1.

reactant | 2,5-dicyanobenzo[b]furan | 0.01 mole, 1.68g | C(#N)C1=CC2=C(O1)C=CC(=C2)C#N | C10H4N2O
reactant | sulfuric acid | 1M, 100 mL | S(O)(O)(=O)=O | H2O4S
reactant | ether | CCOCC | C4H10O
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | methylenechloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2,5-Diformylbenzo[b]furan | 1.2 g, 69% yield | C(=O)C1=CC2=C(O1)C=CC(=C2)C=O | C10H6O3
